US08809525B2
6-(3-Chlorophenyl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (65.0 mg, 19%) was prepared from 6-bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (0.30 g, 1.11 mmol) and 3-chlorophenylboronic acid (0.19 g, 1.23 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 1.11 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=C(C=C1)F | C9H6BrFN4
reactant | 3-chlorophenylboronic acid | 1.23 mmol, 0.19 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-Chlorophenyl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 65.0 mg, 19% | ClC=1C=C(C=CC1)C1=C(N=C(N=N1)N)C1=CC=C(C=C1)F | C15H10ClFN4
